US05387591
Stage A: 3-Cyanomethylpyrrolidine Hydrochloride
Catalytic debenzylation, in the presence of hydrogen and palladised carbon, of 3-cyanomethyl-1-benzylpyrrolidine hydrochloride, in ethanol, makes it possible to obtain the desired compound.

reactant | hydrogen | [H][H] | H2
reactant | 3-cyanomethyl-1-benzylpyrrolidine hydrochloride | Cl.C(#N)CC1CN(CC1)CC1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 3-Cyanomethylpyrrolidine Hydrochloride | Yield: 95% | Cl.C(#N)CC1CNCC1 | InChI=1S/C6H10N2.ClH/c7-3-1-6-2-4-8-5-6;/h6,8H,1-2,4-5H2;1H
